* BLOCK 4 -- sync divider + sound-card input model.  Pins: GPIO (3.3 V pulse), SYNC (0.3 V), SC (after coupling), GND.
.subckt SYNC_DIV gpio sync sc gnd
RG    gpio pin  30
R23   pin  sync 10k
R24   sync gnd  1k
CCPL  sync sc   10u
RSC   sc   gnd  10k
.ends
