* BLOCK 1 -- video amplifier.  Pins: IF (mixer IF, 50-ohm source outside), AUDIO (line out),
* VANA (11.4 V), VREF (5.7 V), GND.  Paste into an Arbitrary SPICE Block, or .include it.
* Gain jumpers: R4 1k -> A=101 (4.7k -> 22); R7 10k -> B=11 (short -> 1).
.include opamp_tl072.sub
.subckt VIDEO_AMP if audio vana vref gnd
R1    if   gnd  49.9
C20   if   gnd  1n
C1    if   ap   100n
R2    ap   vref 10k
XU1A  ap   am   vana gnd aout TL072X
R3    aout am   100k
R4    am   vref 1k
C2    aout bp   100n
R6    bp   vref 10k
XU1B  bp   bm   vana gnd bout TL072X
R7    bout bm   10k
R8    bm   vref 1k
R12   bout lp   1k
C9    lp   vref 10n
XU2B  lp   obuf vana gnd obuf TL072X
R13   obuf oiso 100
C10   oiso audio 10u
R14   audio gnd 100k
C3    vana gnd  100n
.ends
