* BLOCK 2 -- buffered half-rail reference.  Pins: VANA in, VREF out, GND.
.include opamp_tl072.sub
.subckt VREF_BIAS vana vref gnd
R9    vana vdiv 10k
R10   vdiv gnd  10k
C5    vdiv gnd  10u
XU2A  vdiv vbuf vana gnd vbuf TL072X
R11   vbuf vref 47
C6    vref gnd  47u
C7    vana gnd  100n
.ends
