* Generic TL072-class op-amp macro model (single pole, GBW 3 MHz, Aol 100 dB,
* output clamps 1.5 V inside each rail). Multisim: use the library TL072CP instead.
.subckt TL072X inp inn vcc vee out
Rin   inp inn 1e12
E1    n1  0   inp inn 1e5
R1    n1  n2  1k
C1    n2  0   5.305u
B1    n3  0   V = max(min(V(n2), V(vcc)-1.5), V(vee)+1.5)
Rout  n3  out 100
.ends
