* POWER IN, REVERSED -- -12 V applied. VPROT must sit near 0 V.
.model D1N5822 D(IS=2e-6 N=1.05 RS=0.02 BV=40 IBV=1m CJO=180p)
VIN   vin  0     DC -12
D1    vin  vprot D1N5822
C11   vprot 0    100u
RBUCK vprot 0    60
R15   vprot vana 10
C13   vana 0     100u
ROPA  vana 0     1.1k
.op
.print dc v(vprot) v(vana)
.end
