* TL072-class op-amp for Multisim's Arbitrary SPICE Block (plain SPICE 3, no B-sources)
* Aol 100 dB, GBW 3 MHz, output clamped 1.5 V inside each rail.
* In Multisim itself prefer the library TL072CP; this is for netlist-only use.
.subckt TL072X inp inn vcc vee out
Rin   inp inn 1e12
E1    n1  0   inp inn 1e5
R1    n1  n2  1k
C1    n2  0   5.305u
E2    n3  0   n2  0   1
Rout  n3  out 100
* clamps
Vch   vcc chp DC 1.5
Dch   out chp DCLAMP
Vcl   chn vee DC 1.5
Dcl   chn out DCLAMP
.model DCLAMP D(IS=1e-12 N=0.05)
.ends
